US05719141
c) 3-[N-Tert-butoxycarbonyl-4(S)-(4-hydroxy-2,2-dimethylbutyl)-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-but-2-enyl-propionic acid (N-butyl)amide
474 mg of 3-[N-tert-butoxycarbonyl-4(S)-(4-tert-butyl-diphenylsilyloxy-2,2-dimethylbutyl)-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-but-2-enyl-propionic acid (N-butyl)amide are dissolved in 5 ml of tetrahydrofuran, and 1.2 ml of a 1M tetraburylammonium fluoride solution in tetrahydrofuran are added at room temperature under argon. After 4 h, the reaction mixture is diluted with diethyl ether, washed with water and brine, dried (Na2SO4) and concentrated. Purification over silica gel (mobile phase A) gives the title compound: Rf (A)=0.40; FAB-MS: (M+H)+ =483.

reactant | 3-[N-tert-butoxycarbonyl-4(S)-(4-tert-butyl-diphenylsilyloxy-2,2-dimethylbutyl)-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-but-2-enyl-propionic acid (N-butyl)amide | 474 mg | C(CCC)NC([C@@H](C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC(CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)(C)C)CC=CC)=O | C43H68N2O5Si
reactant | fluoride | 1M | [F-]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[N-Tert-butoxycarbonyl-4(S)-(4-hydroxy-2,2-dimethylbutyl)-2,2-dimethyl-1,3-oxazolidin-5(S)-yl]-2(R)-but-2-enyl-propionic acid (N-butyl)amide | C(CCC)NC([C@@H](C[C@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC(CCO)(C)C)CC=CC)=O | C27H50N2O5
